US07915427B2
(2S,4S)-4-fluoro-1-[2-(tert-butyldimethylsilyloxy)acetyl]pyrrolidine-2-carbonitrile (5.50 g) was dissolved in tetrahydrofuran (37 mL). To this solution, water (37 mL) and acetic acid (115 mL) were sequentially added and the mixture was stirred at 50° C. for 7.5 hours and then at 70° C. for 9 hours. Subsequently, the reaction mixture was concentrated under reduced pressure and the resulting pale brown tar-like residue was triturated with diethyl ether. The resulting solid was collected by filtration and dried under reduced pressure to give (2S,4S)-4-fluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carbonitrile as a pale brown solid (3.19 g).

reactant | (2S,4S)-4-fluoro-1-[2-(tert-butyldimethylsilyloxy)acetyl]pyrrolidine-2-carbonitrile | 5.50 g | F[C@H]1C[C@H](N(C1)C(CO[Si](C)(C)C(C)(C)C)=O)C#N | C13H23FN2O2Si
reactant | water | 37 mL | O | H2O
reactant | acetic acid | 115 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 37 mL | O1CCCC1 | C4H8O
product | (2S,4S)-4-fluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carbonitrile | 3.19 g | F[C@H]1C[C@H](N(C1)C(CO)=O)C#N | C7H9FN2O2
